************************************************************************
* auCdl Netlist:
* 
* Library Name:  cad4
* Top Cell Name: AlphaPhaseLatch
* View Name:     schematic
* Netlisted on:  Nov 24 21:04:13 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: cad4
* Cell Name:    INVD1
* View Name:    schematic
************************************************************************

.SUBCKT INVD1 vi vo
*.PININFO vi:I vo:O
MM0 vo vi vss! vss! NMOS_VTL W=300n L=50n m=1
MM1 vo vi vdd! vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    TransmissionGate
* View Name:    schematic
************************************************************************

.SUBCKT TransmissionGate ngate pgate vi vo
*.PININFO ngate:I pgate:I vi:I vo:O
MM1 vo pgate vi vdd! PMOS_VTL W=400n L=50n m=1
MM0 vi ngate vo vss! NMOS_VTL W=300n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 a b z
*.PININFO a:I b:I z:O
MNMOS1 net1 b vss! vss! NMOS_VTL W=300n L=50n m=1
MNMOS0 z a net1 vss! NMOS_VTL W=300n L=50n m=1
MPMOS0 z a vdd! vdd! PMOS_VTL W=400n L=50n m=1
MPMOS1 z b vdd! vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    AlphaPhaseLatch
* View Name:    schematic
************************************************************************

.SUBCKT AlphaPhaseLatch Clk Clk_bar D Q Q_bar rst_bar
*.PININFO Clk:I Clk_bar:I D:I rst_bar:I Q:O Q_bar:O
XI2 Q Q_bar / INVD1
XI0 D net2 / INVD1
XI7 Clk Clk_bar net2 Q / TransmissionGate
XI4 Q_bar rst_bar net3 / NAND2
MM0 net3 Clk_bar Q vss! NMOS_VTL W=300n L=50n m=1
MM1 Q Clk net3 vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

